US08809342B2
To a solution of methyl 6-formylnicotinate (200 mg, 1.21 mmol) in toluene (8 mL) containing activated molecular sieves was added 2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-amine (316 mg, 1.33 mmol). The reaction mixture was heated to 90° C. and stirred overnight. The reaction mixture was concentrated and the residue dissolved in tetrahydrofuran (8 mL). The solution was cooled to 0° C. Zinc chloride (3.64 mL of a 1.0M solution in diethyl ether, 3.64 mmol) was added, followed by isobutylmagnesium bromide (1.82 mL of a 2.0M solution in THF, 3.64 mmol). The reaction mixture was stirred at 0° C. for 2 h. The reaction was quenched with saturated aqueous ammonium chloride (5 mL). The mixture was diluted with dichloromethane (30 mL) and water (30 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (30 mL) two more times. The combined organic layers were dried over sodium sulfate, filtered, and concentrated. Purification by column chromatography gave methyl 6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinate (290 mg, 51%). 1H NMR (400 MHz, CDCl3, δ): 9.20 (s, 1H), 8.25 (d, 1H), 7.62 (d, 4H), 7.50 (d, 2H), 7.45 (d, 1H), 7.20 (d, 2H), 6.30 (s, 2H), 4.62 (m, 1H), 3.95 (s, 3H), 3.5 (s, 3H), 1.87 (s, 6H), 1.73 (d, 3H), 1.26 (m, 3H), 1.10 (m, 6H).

reactant | methyl 6-formylnicotinate | 1.21 mmol, 200 mg | C(=O)C1=NC=C(C(=O)OC)C=C1 | C8H7NO3
reactant | 2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-amine | 1.33 mmol, 316 mg | CC1=C(C(=CC(=C1)N)C)C1=CC=C(C=C1)C(F)(F)F | C15H14F3N
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinate | 290 mg, 51% | CC1=C(C(=CC(=C1)NC(CC(C)C)C1=NC=C(C(=O)OC)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C27H29F3N2O2
